US05114944
2-Phenyl-N,N-dipropylpyrazolo[1.5-a]pyrimidine-3-acetamide
A mixture of 3.5 g (0.013 mole) of 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid and 2.24 g (0.013 mole) of 1,1'-carbonyldiimidazole in 150 ml of anhydrous tetrahydrofuran was stirred for 4 hours at room temperature while nitrogen was bubbled through the mixture. After additional stirring, a solution of 4.19 g (0.041 mole) of di-n-propylamine in 10 ml of anhydrous tetrahydrofuran was added dropwise and the mixture was stirred for about 17 hours under a nitrogen atmosphere. The solvent was evaporated under reduced pressure and the residue (7.3 g) was recrystallized from ethanol-water to give 3.3 g of product (72%), mp 103°-105° C.

reactant | 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.013 mole, 3.5 g | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H11N3O2
reactant | 1,1'-carbonyldiimidazole | 0.013 mole, 2.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | di-n-propylamine | 0.041 mole, 4.19 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Phenyl-N,N-dipropylpyrazolo[1.5-a]pyrimidine-3-acetamide | 3.3 g, 72% | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)N(CCC)CCC | C20H24N4O
